US08912188B2
To a solution of methyl 2-(4-fluorophenyl)-7-hydroxy-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (45 mg, 0.12 mmol) in methanol (30 mL) and water (1.0 mL) was added sodium hydroxide (19.5 mg, 0.49 mmol) with stirring overnight at room temperature. The reaction mixture was concentrated in vacuo, dissolved in water (30 mL), adjusted to pH 5 with hydrochloric acid (3N) to give the precipitate, which was collected by filtration to afford 2-(4-fluorophenyl)-7-hydroxy-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid as a light yellow solid (38.2 mg, 88%).

reactant | methyl 2-(4-fluorophenyl)-7-hydroxy-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.12 mmol, 45 mg | FC1=CC=C(C=C1)C1=NC2=CC(=C(C=C2N=C1N(C)C(C)C)C(=O)OC)O | C20H20FN3O3
reactant | sodium hydroxide | 0.49 mmol, 19.5 mg | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
solvent | water | 1.0 mL | O | H2O
product | 2-(4-fluorophenyl)-7-hydroxy-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid | 38.2 mg, 88% | FC1=CC=C(C=C1)C1=NC2=CC(=C(C=C2N=C1N(C)C(C)C)C(=O)O)O | C19H18FN3O3
